US05250548
Methyl 4-chloropyridine-3-carboxylate
4-Chloronicotinic acid, prepared as described by W. C. J. Ross in J. Chem. Soc. (C), 1816 (1966), (2.54 g, 16.1 mmol) in methanol (30 mL) at 0° C. was treated with diazomethane in ether until gas evolution ceased; the ice bath was removed halfway through the esterification. The excess diazomethane was removed with a nitrogen stream and the solvent was removed under reduced pressure. The residue was taken up in saturated sodium bicarbonate solution and extracted with ethyl acetate (2×). The combined organic extracts were washed with 1M aqueous sodium hydroxide solution (2×) and brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford 2.35 g (85%) of the title compound as a yellow oil. A portion (1.47 g) was distilled at b.p. 75°-85° C. at ~1 mm mercury to afford 1.15 g as a pale yellow crystalline solid.

reactant | 4-Chloronicotinic acid | ClC1=CC=NC=C1C(=O)O | C6H4ClNO2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methanol | 30 mL | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | Methyl 4-chloropyridine-3-carboxylate | 2.35 g, 85% | ClC1=C(C=NC=C1)C(=O)OC | C7H6ClNO2
